US07947732B2
A mixture of 5-(3-((1R,2R,3R,5R)-5-chloro-2-(3,5-dichlorophenethyl)-3-hydroxycyclopentyl)propyl)thiophene-2-carboxylic acid (212 mg, 0.46 mmol), potassium bicarbonate (212 mg, 2.1 mmol), 2-bromo-N,N-diethylethanamine hydrobromide (132 mg, 0.51 mmol) and acetonitrile (1.5 mL) was heated at 65° C. After 2 d at 65° C., the mixture was cooled to room temperature and diluted with water (50 mL) and EtOAc (100 mL). The phases were separated and the aqueous phase was extracted with EtOAc (2×50 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo. The crude residue was purified on 40 g silica (CH2Cl2→20% MeOH/CH2Cl2, gradient) to afford a mixture of the desired ester and the starting acid. Fractions containing the desired ester were combined and concentrated. The residue was taken up in EtOAc (100 mL) and washed with saturated aqueous NaHCO3 (50 mL). The aqueous phase was extracted with EtOAc (50 mL) and the combined organic phases were dried (Na2SO4), filtered and concentrated in vacuo. The crude residue was purified on 80 g silica (CH2Cl2→15% MeOH/CH2Cl2, gradient) to afford 103 mg (40%) of 2-(diethylamino)ethyl 5-(3-((1R,2R,3R,5R)-5-chloro-2-(3,5-dichlorophenethyl)-3-hydroxycyclopentyl)propyl)thiophene-2-carboxylate

reactant | 5-(3-((1R,2R,3R,5R)-5-chloro-2-(3,5-dichlorophenethyl)-3-hydroxycyclopentyl)propyl)thiophene-2-carboxylic acid | 0.46 mmol, 212 mg | Cl[C@@H]1C[C@H]([C@@H]([C@H]1CCCC1=CC=C(S1)C(=O)O)CCC1=CC(=CC(=C1)Cl)Cl)O | C21H23Cl3O3S
reactant | potassium bicarbonate | 2.1 mmol, 212 mg | C([O-])(O)=O.[K+]
reactant | 2-bromo-N,N-diethylethanamine hydrobromide | 0.51 mmol, 132 mg | Br.BrCCN(CC)CC
reactant | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-(diethylamino)ethyl 5-(3-((1R,2R,3R,5R)-5-chloro-2-(3,5-dichlorophenethyl)-3-hydroxycyclopentyl)propyl)thiophene-2-carboxylate | 103 mg, 40% | Cl[C@@H]1C[C@H]([C@@H]([C@H]1CCCC1=CC=C(S1)C(=O)OCCN(CC)CC)CCC1=CC(=CC(=C1)Cl)Cl)O | C27H36Cl3NO3S
